US08604017B2
Methyl 2-(4-fluoro-benzoylamino)-3-hydroxy-benzoate 9dd (7.4 mmol, 1.2 g crude) and 1.3 g (7.5 mmol) of p-toluenesulfonic acid was refluxed in 10 mL of xylene overnight. After cooling saturated NaHCO3 was added and the resulting mixture was extracted with EtOAc. The organic solvent was evaporated to give 1.1 g (55%) of methyl 2-(4-fluorophenyl)benzo[d]oxazole-4-carboxylate, 9ee. MS m/z (M+H+) 272.0.

reactant | Methyl 2-(4-fluoro-benzoylamino)-3-hydroxy-benzoate | FC1=CC=C(C(=O)NC2=C(C(=O)OC)C=CC=C2O)C=C1 | C15H12FNO4
reactant | p-toluenesulfonic acid | 7.5 mmol, 1.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 2-(4-fluorophenyl)benzo[d]oxazole-4-carboxylate | 1.1 g, 55% | FC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C15H10FNO3
